* NGSPICE file created from routed.ext - technology: sky130A

.subckt Unnamed_1dc60c31 D S G B
X0 B B B B sky130_fd_pr__nfet_01v8 ad=9.5 pd=40.95 as=38 ps=163.8 w=20 l=0.15
X1 B B B B sky130_fd_pr__nfet_01v8 ad=9.5 pd=40.95 as=0 ps=0 w=20 l=0.15
X2 D G S B sky130_fd_pr__nfet_01v8 ad=9.5 pd=40.95 as=9.5 ps=40.95 w=20 l=0.15
.ends

.subckt XN0 Unnamed_1dc60c31_0/S Unnamed_1dc60c31_0/G Unnamed_1dc60c31_0/D VSUBS
XUnnamed_1dc60c31_0 Unnamed_1dc60c31_0/D Unnamed_1dc60c31_0/S Unnamed_1dc60c31_0/G
+ VSUBS Unnamed_1dc60c31
.ends

.subckt Unnamed_43f39a32 a_n1104_n2041# a_242_n1500# a_64_n1500# a_n242_n1696# a_n320_n1500#
X0 a_n242_n1696# a_n242_n1696# a_n320_n1500# a_n1104_n2041# sky130_fd_pr__nfet_01v8 ad=5.85 pd=30.78 as=5.85 ps=30.78 w=15 l=0.5
X1 a_242_n1500# a_n242_n1696# a_64_n1500# a_n1104_n2041# sky130_fd_pr__nfet_01v8 ad=5.85 pd=30.78 as=5.85 ps=30.78 w=15 l=0.5
X2 a_242_n1500# a_n242_n1696# a_64_n1500# a_n1104_n2041# sky130_fd_pr__nfet_01v8 ad=5.85 pd=30.78 as=5.85 ps=30.78 w=15 l=0.5
X3 a_242_n1500# a_n242_n1696# a_64_n1500# a_n1104_n2041# sky130_fd_pr__nfet_01v8 ad=5.85 pd=30.78 as=5.85 ps=30.78 w=15 l=0.5
X4 a_242_n1500# a_n242_n1696# a_64_n1500# a_n1104_n2041# sky130_fd_pr__nfet_01v8 ad=5.85 pd=30.78 as=5.85 ps=30.78 w=15 l=0.5
X5 a_n1104_n2041# a_n1104_n2041# a_n1104_n2041# a_n1104_n2041# sky130_fd_pr__nfet_01v8 ad=5.85 pd=30.78 as=11.7 ps=61.56 w=15 l=0.5
.ends

.subckt current_mirror_XN5_XN4 Unnamed_43f39a32_0/a_n242_n1696# Unnamed_43f39a32_0/a_64_n1500#
+ Unnamed_43f39a32_0/a_242_n1500# VSUBS Unnamed_43f39a32_0/a_n320_n1500#
XUnnamed_43f39a32_0 VSUBS Unnamed_43f39a32_0/a_242_n1500# Unnamed_43f39a32_0/a_64_n1500#
+ Unnamed_43f39a32_0/a_n242_n1696# Unnamed_43f39a32_0/a_n320_n1500# Unnamed_43f39a32
.ends

.subckt Unnamed_dbd01499 c1_n750_n750# m3_n1218_n200#
X0 c1_n750_n750# m3_n1218_n200# sky130_fd_pr__cap_mim_m3_1 l=7.5 w=7.5
.ends

.subckt XC0 Unnamed_dbd01499_0/c1_n750_n750# Unnamed_dbd01499_0/m3_n1218_n200#
XUnnamed_dbd01499_0 Unnamed_dbd01499_0/c1_n750_n750# Unnamed_dbd01499_0/m3_n1218_n200#
+ Unnamed_dbd01499
.ends

.subckt Unnamed_4b7a68c3 D S G B
X0 D G S B sky130_fd_pr__nfet_01v8 ad=23.4 pd=120.78 as=23.4 ps=120.78 w=60 l=0.5
X1 B B B B sky130_fd_pr__nfet_01v8 ad=23.4 pd=120.78 as=93.6 ps=483.12 w=60 l=0.5
X2 B B B B sky130_fd_pr__nfet_01v8 ad=23.4 pd=120.78 as=0 ps=0 w=60 l=0.5
.ends

.subckt XN3 Unnamed_4b7a68c3_0/S Unnamed_4b7a68c3_0/G VSUBS Unnamed_4b7a68c3_0/D
XUnnamed_4b7a68c3_0 Unnamed_4b7a68c3_0/D Unnamed_4b7a68c3_0/S Unnamed_4b7a68c3_0/G
+ VSUBS Unnamed_4b7a68c3
.ends

.subckt Unnamed_c0a30604 D S G B
X0 B B B B sky130_fd_pr__nfet_01v8 ad=9.5 pd=40.95 as=38 ps=163.8 w=20 l=0.15
X1 B B B B sky130_fd_pr__nfet_01v8 ad=9.5 pd=40.95 as=0 ps=0 w=20 l=0.15
X2 D G S B sky130_fd_pr__nfet_01v8 ad=9.5 pd=40.95 as=9.5 ps=40.95 w=20 l=0.15
.ends

.subckt XN1 Unnamed_c0a30604_0/S Unnamed_c0a30604_0/G Unnamed_c0a30604_0/D VSUBS
XUnnamed_c0a30604_0 Unnamed_c0a30604_0/D Unnamed_c0a30604_0/S Unnamed_c0a30604_0/G
+ VSUBS Unnamed_c0a30604
.ends

.subckt Unnamed_8a89893b c1_n750_n750# m3_n1218_n200#
X0 c1_n750_n750# m3_n1218_n200# sky130_fd_pr__cap_mim_m3_1 l=7.5 w=7.5
.ends

.subckt XC1 Unnamed_8a89893b_0/c1_n750_n750# Unnamed_8a89893b_0/m3_n1218_n200#
XUnnamed_8a89893b_0 Unnamed_8a89893b_0/c1_n750_n750# Unnamed_8a89893b_0/m3_n1218_n200#
+ Unnamed_8a89893b
.ends

.subckt Unnamed_6f40f37b D S G B
X0 D G S B sky130_fd_pr__nfet_01v8 ad=23.4 pd=120.78 as=23.4 ps=120.78 w=60 l=0.5
X1 B B B B sky130_fd_pr__nfet_01v8 ad=23.4 pd=120.78 as=93.6 ps=483.12 w=60 l=0.5
X2 B B B B sky130_fd_pr__nfet_01v8 ad=23.4 pd=120.78 as=0 ps=0 w=60 l=0.5
.ends

.subckt XN2 Unnamed_6f40f37b_0/S Unnamed_6f40f37b_0/G Unnamed_6f40f37b_0/D VSUBS
XUnnamed_6f40f37b_0 Unnamed_6f40f37b_0/D Unnamed_6f40f37b_0/S Unnamed_6f40f37b_0/G
+ VSUBS Unnamed_6f40f37b
.ends

.subckt routed VDD Vcont Iref VSS
XXN0_0 XN1_0/Unnamed_c0a30604_0/S VDD VDD VSS XN0
Xcurrent_mirror_XN5_XN4_0 Iref VSS XN1_0/Unnamed_c0a30604_0/S VSS VSS current_mirror_XN5_XN4
XXC0_0 VDD VDD XC0
XXN3_0 Vcont VDD VSS Vcont XN3
XXN1_0 XN1_0/Unnamed_c0a30604_0/S VDD VDD VSS XN1
XXC1_0 VDD VDD XC1
XXN2_0 Vcont VDD Vcont VSS XN2
.ends

